US07622583B2
N-(2-Bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (0.494 g, 1 mmol) placed in a 10 mL round bottom flask under nitrogen atmosphere was dissolved in anhydrous THF (5 mL). The solution was cooled to −20° C. The magnetically stirring solution was treated with solution of 2.0 M isopropylmagnesium bromide in THF (1.05 mL, 2.1 mmol) drop wise and after the addition was complete the reaction mixture was allowed to warm to 0° C. and maintained at this temperature for 1 h. The resulting deep purple solution was cooled to −20° C. and treated with a solution of 2,4-dimethyl-pyridine-3-carbaldehyde (0.28 g, 2.1 mmol) in THF (2 mL). The mixture was allowed to warm to room temperature and stirred at room temperature over night. After diluting with saturated ammonium chloride solution (10 mL) the product was extracted with ethyl acetate (3×25 mL). The combined organic extract was concentrated and product purified by flash chromatography on silica gel column (10-30% ethyl acetate in hexanes). Product containing fractions were combined and the solvent evaporated to afford 0.33 g of 4-chloro-N-{5-chloro-2-[(2,4-dimethyl-pyridin-3-yl)-hydroxy-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide as an off white solid. MS: (M+H)/z=550.

reactant | N-(2-Bromo-5-chloro-pyridin-3-yl)-4-chloro-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 1 mmol, 0.494 g | BrC1=NC=C(C=C1N(S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)COC)Cl | C14H10BrCl2F3N2O3S
reactant | isopropylmagnesium bromide | 2.0 M | C(C)(C)[Mg]Br
reactant | 2,4-dimethyl-pyridine-3-carbaldehyde | 2.1 mmol, 0.28 g | CC1=NC=CC(=C1C=O)C | C8H9NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | THF | 2.1 mmol, 1.05 mL | C1CCOC1 | C4H8O
product | 4-chloro-N-{5-chloro-2-[(2,4-dimethyl-pyridin-3-yl)-hydroxy-methyl]-pyridin-3-yl}-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.33 g | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(O)C=1C(=NC=CC1C)C)C(F)(F)F | C22H20Cl2F3N3O4S
